US06136823
Synthesis of 7-Allylamino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg), allylamine (35 mg) and triethylamine (300 mg) were added to pyridine (400 mg), and the mixture was stirred for 2 hours at 40° C. and for 63 hours at room temperature. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (1.5 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (100 mg) as a pale brown powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | allylamine | 35 mg | C(C=C)N | C3H7N
reactant | triethylamine | 300 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 400 mg | N1=CC=CC=C1 | C5H5N
product | 7-Allylamino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 100 mg | C(C=C)NC1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O)F | C18H12ClF3N4O3
